2166-09-10 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   SBPs in 80s, responded to 2 500 cc IVF bolus
   Patient persistently in AF with RVR.  Diltiazem uptitrated for rate
   control.  Eventually started on drip with pressure parameters.
   Difficulty maintaining O2 sat.  Improved with positioning and BiPAP.
   Hip films -> discussed with ortho.  Possibly dislocation, but needs
   lateral x-ray to be sure.  They will staff this AM.
   Allergies:
   Lithium
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-10**] 12:28 AM
   Azithromycin - [**2166-9-10**] 01:00 AM
   Vancomycin - [**2166-9-10**] 02:00 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-9-10**] 01:00 AM
   Diltiazem - [**2166-9-10**] 01:35 AM
   Morphine Sulfate - [**2166-9-10**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-10**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 98 (94 - 135) bpm
   BP: 110/69(78) {81/48(58) - 158/7,516(134)} mmHg
   RR: 24 (16 - 39) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,606 mL
                                                                    656 mL
   PO:
             TF:
   IVF:
                                                                  2,606 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    210 mL
   Urine:
                                                                  1,240 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,366 mL
                                                                    446 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 719 (328 - 719) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.35/50/147/23/1
   Ve: 11.4 L/min
   PaO2 / FiO2: 294
   Physical Examination
   Gen:  NAD.  Non-verbal.
   HEENT:  Anicteric.  PERRL 2.5mm to 2mm bilaterally.  Non-invasive
   ventilation mask on.  Will not protrude tongue all the way.
   Resp:  Breathing comfortably on mask.  Inspiratory rales at left base.
   Thumping sound (?glottis closing) during mid expiration.
   CV:  JVP 10 cm above RA.  Irregularly irregular.  No M/G/R.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Ext:  RLE with 1+ pitting edema.  LLE with 2+ pitting edema.  LLE
   appears shortened and externally rotated.
   Skin:  Not assessed
   Neurologic:  Respond minimally to commands.  Non-verbal.  Spontaneous
   movements of left arm.  Biceps reflex elicited on right.  Withdraws to
   Babinski bilaterally.  :  Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   12.2 g/dL
   200 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.6 mEq/L
   22 mg/dL
   108 mEq/L
   140 mEq/L
   37.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2166-9-9**]  12:30 PM
                             [**2166-9-9**]  01:50 PM
                             [**2166-9-9**]  02:41 PM
                             [**2166-9-9**]  09:07 PM
                             [**2166-9-10**]  03:16 AM
   WBC
   9.0
   7.6
   Hct
   37.6
   37.4
   Plt
   255
   220
   Cr
   0.7
   1.2
   1.1
   TropT
   0.02
   TCO2
   29
   Glucose
   70
   97
   200
   Other labs: PT / PTT / INR:14.9/26.7/1.3, CK / CKMB /
   Troponin-T:846/12/0.02, Differential-Neuts:89.4 %, Lymph:6.9 %,
   Mono:3.0 %, Eos:0.7 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Legionella antigen negative.  Urine cx negative.
   CXR
 Dilated thoracic aorta with displacement of trachea.
   Opacification of left lower lung field consistent with worsening LLL
   infiltrate.
   Assessment and Plan
 84 yo M with COPD, Afib, s/p hip partial
   replacement p/w altered mental status, tachycardia, hypoxemia, LLE
   edema, and left hip/knee pain.
   Altered mental status
 Per nursing home, patient A&Ox3 without
   dementia at baseline
          Infection can certainly contribute and may be the main
   cause.  However, cannot exclude SDH.
          Contact family re: goals of care, what we would do if we
   found ICH.  Consider head CT if family would treat ICH.
          Neuro checks Q4H.
   Atrial fibrillation with RVR:  Likely worsened in setting of PNA.
   Patient not on anticoagulation currently likely [**2-8**] to fall risk
          Diltiazam gtt
          Avoid adding additional agents given bifasicular block on
   EKG
          Consider digoxin if pressures are limiting
   Pneumonia
 Patient with healthcare-acquired (nursing home resident)
   pneumonia.
          Cover MRSA, GNR, typical CAP pathogens
 vanco, zosyn,
   azithro
          Follow Chest X-rays
 worsened LLL infiltrate today
          Follow blood cultures.
          NPO.  Speech/swallow eval pending improvement in mental
   status.
   Congestive Heart Failure - EF unknown.  JVP elevated.
          IVF as needed to support pressure.
          HR < 120s by dilt gtt to optimize cardiac output
          Call Urban med to get additional cardiac history/records.
   COPD
          Bronchodilators
 albuterol and ipratropium
          Continue methylprednisolone 60 mg IV Q8H.  Consider weaning
   steroids tomorrow.
   Possible hip dislocation.  Left leg shortened and externally rotated.
   AP film was normal per ortho intern (no radiology read yet) but lateral
   would be needed.  Ortho evaluated last night.  Ortho consulted.
          Follow Ortho recs
          Follow radiology read on AP film
   LLE edema
 Differential diagnosis includes musculoskeletal trauma
   (consist with hip pain and elevated CK) versus DVT
   -          Lower extremity ultrasound r/o DVT
   Elevated CK
 [**Month (only) 60**] be due to traumatic muscle injury in the setting of a
   fall.
   -          Most recently trending down
   -          U/A on admission with blood and no RBCs, consistent with
   myoglobinuria.  Urine now grossly clear.
   Schizoaffective disorder
          Resume as many home meds as feasible
   Hyperglycemia
 A history of DM is noted in the patient
s chart.
   -          Check fingersticks.
   -          Start insulin sliding scale.
   ICU Care
   Nutrition: NPO for now.  Will need improvement in mental status and
   evaluation by speech and swallow before any PO.
   Glycemic Control:  Will start insulin sliding scale.
   Lines:   PIV x 2 (right dorsum of hand and left antecubital)
   18 Gauge - [**2166-9-9**] 01:31 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI IV
   VAP:
   Comments:
   Communication:  [**Doctor First Name 3001**] (guardian) [**Telephone/Fax (1) 5003**];  [**First Name8 (NamePattern2) 5004**] [**Last Name (NamePattern1) 5005**]
   [**Telephone/Fax (1) 5006**] Comments:
   Code status: DNR / DNI  confirmed with [**Hospital1 54**] MD and patient
s PCP,
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 125**].  We are unable to reach patient
s guardian at present.
   Disposition: ICU

2166-09-10 10:12:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On and off non-invasive ventilation overnight.
   AFib rx'd with dilt.
   Some hypotension rx'd with fluids.
   Plain film revealed hip arthroplasty --> ortho consult
   Episode of severe respiratory distress with ??stridor.  Improved with
   sitting more upright.
   DNR/DNI status confirmed with guardian by our team
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Lithium
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-10**] 12:28 AM
   Azithromycin - [**2166-9-10**] 01:00 AM
   Vancomycin - [**2166-9-10**] 02:00 AM
   Infusions:
   Diltiazem - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-9-10**] 01:00 AM
   Diltiazem - [**2166-9-10**] 01:35 AM
   Morphine Sulfate - [**2166-9-10**] 05:43 AM
   Other medications:
   methypred, vanco, azithro, PPI, dilt gtt, synthroid, zosyn, sqh
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-10**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 87 (87 - 135) bpm
   BP: 98/55(66) {81/48(58) - 158/7,516(134)} mmHg
   RR: 24 (13 - 39) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,606 mL
                                                                    720 mL
   PO:
             TF:
   IVF:
                                                                  2,606 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    330 mL
   Urine:
                                                                  1,240 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,366 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 538 (328 - 719) mL
   PS : 8 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.35/50/147/23/1
   Ve: 13.6 L/min
   PaO2 / FiO2: 294
   Physical Examination
   General Appearance: Thin, frail.  Looks more comfortable than last
   evening.
   Head, Ears, Nose, Throat: Normocephalic, mask in place
   Lymphatic: lipoma posteriorly
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : basilar), no stridor at
   present
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 2+, left leg externally rotated
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   12.2 g/dL
   220 K/uL
   200 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.6 mEq/L
   22 mg/dL
   108 mEq/L
   140 mEq/L
   37.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2166-9-9**]  12:30 PM
                             [**2166-9-9**]  01:50 PM
                             [**2166-9-9**]  02:41 PM
                             [**2166-9-9**]  09:07 PM
                             [**2166-9-10**]  03:16 AM
   WBC
   9.0
   7.6
   Hct
   37.6
   37.4
   Plt
   255
   220
   Cr
   0.7
   1.2
   1.1
   TropT
   0.02
   TCO2
   29
   Glucose
   70
   97
   200
   Other labs: PT / PTT / INR:14.9/26.7/1.3, CK / CKMB /
   Troponin-T:846/12/0.02, Differential-Neuts:89.4 %, Lymph:6.9 %,
   Mono:3.0 %, Eos:0.7 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR stable c/w yesterday
   Hip/knee films [**Location (un) 308**] pending
   Head CT deferred due to patient acuity and DNR/DNI status
   Assessment and Plan
   84 y/o man with multiple chronic medical problems now with
          Respiratory Distress
          Pneumonia
   o         [**Name (NI) 4986**] (pt resides in nursing home)
   o         Cover MRSA, GNR, typical CAP pathogens with vanco, zosyn,
   azithro
   o         Follow cx
   o         Will need speech/swallow eval prior to eating
          Still seems adequately volume repleted at present
          Fever
   o         No identified sites of infection other than pneumonia;
   following cultures
          Externally rotated left hip
   o         Concerning for dislocation
   o         Awaiting formal orthopedics recommendations
   o         Follow up formal film readings
          Altered mental status
   o         Delirium is possible
   o         Infection can certainly contribute and may be the main cause.
   o         Pursue CT head if he becomes more stable from a respiratory
   standpoint today. We will contact his guardian as well to determine
   whether he would pursue surgical intervention if we found a subdural
   with mass effect.
          Atrial fibrillation
   o         Rate control with CCB
   o         If BP an issue, consider dig load
          COPD
   o         Bronchodilators.
   o         Given event last night, we have added steroids
          Schizoaffective disorder
   o         Resume as many home meds when feasible
          DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: start insulin sliding scale
   Lines:
   18 Gauge - [**2166-9-9**] 01:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2166-09-11 05:48:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   -Respiratory status felt to be improved, so transported to CT for
   non-CT head, chest, left hip/femur (no contrast b/c remote history
   unknown iodine allergy)
   -S/S consult deferred (says keep strict NPO, await re-consult when
   patient clinically improved)
   -started digoxin loading, weaned off diltiazem drip with improvement in
   BP
 ULTRASOUND - At [**2166-9-10**] 03:00 PM
   ultrasound to check for DVT in legs
   Allergies:
   Lithium
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-10**] 12:28 AM
   Piperacillin - [**2166-9-11**] 12:03 AM
   Vancomycin - [**2166-9-11**] 12:04 AM
   Azithromycin - [**2166-9-11**] 12:04 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-9-10**] 06:00 PM
   Morphine Sulfate - [**2166-9-10**] 09:02 PM
   Heparin Sodium (Prophylaxis) - [**2166-9-11**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-11**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 101 (87 - 118) bpm
   BP: 97/71(76) {92/50(60) - 120/77(87)} mmHg
   RR: 25 (13 - 28) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,393 mL
                                                                    617 mL
   PO:
             TF:
   IVF:
                                                                  1,393 mL
                                                                    617 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    280 mL
   Urine:
                                                                    900 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    493 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 679 (538 - 679) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   SpO2: 88%
   ABG: ////
   Ve: 10.5 L/min
   Physical Examination
   Gen:  NAD.
   HEENT:  Anicteric.  PERRL 3 to 2 mm bilaterally.  Oral mucosa dry.
   Resp:  Mildly increased respiratory effort.  On shovel mask 50% O2.
   Clear at right apex.  Slight inspiratory rales left apex.  Decreased
   breath sounds at bases bilaterally.
   CV:  JVP to angle of jaw.  Irregular rhythm.  S1, S2.  No M/G/R.
   Abd:  Bowel sounds present.  Soft.  Non-tender.
   Ext:  2+ to 3+ LE edema left, perhaps worsened from yesterday.   1+ LE
   edema right.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: present by doppler), (Left PT pulse: present by
   doppler)
   Skin:  Not assessed
   Neurologic:  Neurologic exam limited by mental status.  Responds to
   simple commands.  Keeps repeating
at 5:38
.  Speech limited to short
   phrases.  Not oriented.  PERRL 3 mm to 2 mm bilaterally.  EOMI.
   Symmetric smile.  Elevates palate in midline.  Protrudes tongue min
   midline.  Moves all 4 extremities.
   Labs / Radiology
   220 K/uL
   12.2 g/dL
   200 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.6 mEq/L
   22 mg/dL
   108 mEq/L
   140 mEq/L
   37.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2166-9-9**]  12:30 PM
                             [**2166-9-9**]  01:50 PM
                             [**2166-9-9**]  02:41 PM
                             [**2166-9-9**]  09:07 PM
                             [**2166-9-10**]  03:16 AM
   WBC
   9.0
   7.6
   Hct
   37.6
   37.4
   Plt
   255
   220
   Cr
   0.7
   1.2
   1.1
   TropT
   0.02
   TCO2
   29
   Glucose
   70
   97
   200
   Other labs: PT / PTT / INR:14.9/26.7/1.3, CK / CKMB /
   Troponin-T:846/12/0.02, Differential-Neuts:89.4 %, Lymph:6.9 %,
   Mono:3.0 %, Eos:0.7 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   LENI [**2166-9-10**]:  No DVT in left lower extremity.
   CT left lower extremity [**2166-9-10**] (wet read):  adequatly positioned
   bipolar lt hip arthroplasty without eveidence of acute fx or
   dislocation. no large effusions. metastatic appearing sclerotic
   lesions, likley from pts known prostate ca in pelvis/sacrum.
   CT chest [**2166-9-10**] (wet read):  new posterior LUL consolidation and
   posterior RUL ground glass opacity suggestive of pna, possibly
   aspiration related. New small b/l simple effusions with presumed
   compression adjacent atelectasis, although pna not excluded. massively
   dilated aorta appears slightly prohressed involving the ascending aorta
   from prior exam. multiple new blastic bone lesions throughout the
   chest/spine highly worrisome for metastatic prostate dz in this pt with
   known prostate cancer. small amount fo free fluid around spleen. Post
   trauma, mild splenic injury can not be excluded.
   CT head [**2166-9-10**]:  No evidence of infarction or hemorrhage.
   CXR AP [**2166-9-11**]:  Persistent bilateral small pleural effusions. Left
   lower lobe opacity could be due to atelectasis or pneumonia, better
   evaluated on the recent chest CT.
   Assessment and Plan
   84 yo M with COPD, Afib, prostate cancer, s/p hip partial replacement,
   presented on [**2166-9-9**] with altered mental status, tachycardia, hypoxemia,
   LLE edema, and left hip/knee pain.  Imaging studies revealed pneumonia,
   large thoracic aortic aneurysm, and multiple blastic bone lesions.  The
   patient initially required non-invasive respiratory support but his
   respiratory status has improved, and he has been off of respiratory
   support since last night [**2166-9-10**].
   Altered mental status
 Per nursing home, patient A&Ox3 without
   dementia at baseline.  Mental status improved today, with patient
   responding to simple commands.  Likely delirium in the setting of
   infection although DDx includes CVA despite normal non-contrast CT.
          Consult neurology.
          Neuro checks Q4H.
   .          Consider head MRI pending neuron evaluation if patient can
   tolerate lying flat.
   Atrial fibrillation with RVR:  Patient not on anticoagulation.  Rate
   initially controlled with diltiazem, then with digoxin.  Switched to
   digoxin to improve BP, cardiac output, renal perfusion.
          Continue digoxin for rate control.  0.5 mg lV loading dose
   already given.  Give 0.25 mg IV Q6H for 2 doses today [**2166-9-11**].
   Maintenance dose of 0.125 mg daily starting tomorrow [**2166-9-12**] in a.m.
   .          Monitor ECG.
   Pneumonia
 Patient with healthcare-acquired (nursing home resident)
   pneumonia.  Breathing has improved.
          Cover MRSA, GNR, typical CAP pathogens with vanco, zosyn,
   azithro.  Stop azithromycin after completion of 5-day course.  Last
   dose will be Saturday night/Sunday morning at midnight.
   .          Supratherapeutic on vancomycin.  Change to vancomycin to 750
   mg Q12 hour at 8 p.m. and 8 a.m. starting at 8 p.m. tonight [**2166-9-11**].
   Check trough before Saturday a.m. dose.
          Follow blood cultures.  Blood cultures x 2 are pending.
          NPO.  Speech/swallow re-eval this afternoon.
   Congestive Heart Failure - EF unknown.  JVP persistently elevated.
          Digoxin to support pressure.
   COPD
 Moving air better today.  No wheezes.
          Bronchodilators
 albuterol and ipratropium nebs.
          Taper methylprednisolone 20 mg IV Q8H.
   Blastic bone lesions
 Likely metastasis given history of prostate
   cancer and PSA 279.9.
   .          Consult PCP regarding management of patient
s prostate
   cancer.
   Externally rotated hip.  LLE shortened and externally rotated.  No
   evidence of fracture of dislocation on CT.  External rotation likely
   chronic per ortho.
   LLE edema
 No clot.  DDx includes venous insufficiency, CHF (although
   worse on left).
   Elevated CK
 [**Month (only) 60**] be due to traumatic muscle injury in the setting of a
   fall.  Continuing to trend down.
   Schizoaffective disorder
          Resume as many home meds as feasible.  Speech and swallow to
   evaluate today.
   ICU Care
   Nutrition:   NPO for now.  Speech and swallow to evaluate.
   Glycemic Control:  On ISS.  BS 117-152.  Received 2 units at 12 p.m. on
   [**9-10**] and 2 units at 4 a.m. today [**9-11**].
   Lines:  PIV x 2 (right antecubital and left hand)
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer: Famotidine 20 mg IV Q24H
   VAP:
   Comments:
   Communication:  [**Doctor First Name 3001**] (guardian) [**Telephone/Fax (1) 5003**]; [**First Name8 (NamePattern2) 5004**] [**Last Name (NamePattern1) 5005**]
   [**Telephone/Fax (1) 5006**]
   Code status: DNR / DNI
   Disposition:  To ICU

2166-09-11 11:35:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On and off non-invasive
 NON-INVASIVE VENTILATION - STOP [**2166-9-10**] 11:00 AM
 NON-INVASIVE VENTILATION - START [**2166-9-10**] 12:00 PM
 NON-INVASIVE VENTILATION - STOP [**2166-9-10**] 02:00 PM
 NON-INVASIVE VENTILATION - START [**2166-9-10**] 04:00 PM
 NON-INVASIVE VENTILATION - STOP [**2166-9-10**] 06:00 PM
 NON-INVASIVE VENTILATION - START [**2166-9-10**] 06:00 PM
 NON-INVASIVE VENTILATION - STOP [**2166-9-10**] 08:00 PM
 ULTRASOUND - At [**2166-9-10**] 03:00 PM
   ultrasound to check for DVT in legs
   Tolerated CT
   Dilt infusion d/c'd
   History obtained from Medical records, ICU team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Lithium
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-10**] 12:28 AM
   Vancomycin - [**2166-9-11**] 12:04 AM
   Azithromycin - [**2166-9-11**] 12:04 AM
   Piperacillin - [**2166-9-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-9-10**] 06:00 PM
   Morphine Sulfate - [**2166-9-10**] 09:02 PM
   Heparin Sodium (Prophylaxis) - [**2166-9-11**] 08:00 AM
   Other medications:
   SQH, methylpred 60 q8, Zosyn, vanco, azithro, synthroid, SQI, H2B,
   digoxin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-11**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.2
C (95.4
   HR: 91 (76 - 118) bpm
   BP: 106/72(80) {92/50(60) - 120/77(87)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,393 mL
                                                                    772 mL
   PO:
             TF:
   IVF:
                                                                  1,393 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    580 mL
   Urine:
                                                                    900 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    493 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 679 (651 - 679) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: ///28/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: Thin, frail
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, He answers only in single words at
   present. He is alert and will follow commands
   Labs / Radiology
   13.0 g/dL
   277 K/uL
   148 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.6 mEq/L
   28 mg/dL
   105 mEq/L
   140 mEq/L
   39.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2166-9-9**]  12:30 PM
                             [**2166-9-9**]  01:50 PM
                             [**2166-9-9**]  02:41 PM
                             [**2166-9-9**]  09:07 PM
                             [**2166-9-10**]  03:16 AM
                             [**2166-9-11**]  05:07 AM
   WBC
   9.0
   7.6
   9.1
   Hct
   37.6
   37.4
   39.5
   Plt
   255
   220
   277
   Cr
   0.7
   1.2
   1.1
   1.1
   TropT
   0.02
   TCO2
   29
   Glucose
   70
   97
   200
   148
   Other labs: PT / PTT / INR:14.6/25.5/1.3, CK / CKMB /
   Troponin-T:362/12/0.02, Differential-Neuts:89.4 %, Lymph:6.9 %,
   Mono:3.0 %, Eos:0.7 %, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: CT-h: no ICH
   CT LLE: arthroplasty in place and intact. metastatic disease.
   CCT: LUL consolidation, RUL GGO --> suggesting PNA. Small bilateral
   effusions with nearby atelectasis. Large aortic aneurysm. Multiple
   metastatic lesions.
   Assessment and Plan
   84 y/o man with multiple chronic medical problems now with
          Respiratory Distress
          Pneumonia
   o         [**Name (NI) 4986**] (pt resides in nursing home)
   o         Cover MRSA, GNR, typical CAP pathogens with vanco, zosyn,
   azithro.  Complete 7d course if cx(-); 5d for azithro
   o         Follow cx
   o         Will need speech/swallow eval prior to eating
          Fever
 now afebrile
   o         No identified sites of infection other than pneumonia;
   following cultures
          Externally rotated left hip
   o         Concerning for dislocation but CT reassuring
   o         Await ortho input
          Altered mental status
   o         His mental status has improved.  He is now alert and will
   follow commands.  However, he will not produce speech other than
Hello.
  This is concerning for expressive aphasia.
   o         We will discuss with ortho whether his prosthesis would
   contraindicate MRI.
   o         Infection can certainly contribute and may be the main cause.
          Atrial fibrillation
   o         Doing better on digoxin than he did on diltiazem infusion
   o         Check dig level in a day or two
          Hypovolemia
   o         Volume replete today
          COPD
   o         Improving
 wean steroids
   o         Bronchodilators.
          Schizoaffective disorder
   o         Resume as many home meds when feasible
          Metastatic prostate cancer
   o         Will discuss with his PCP whether this was previously known.
          DNR/DNI
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2166-9-11**] 08:07 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition : ICU since just off of diltiazem infusion and off NIMV for
   < 24 hours
   Total time spent: 35 min
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Staff Addendum
   7:20p
   He
s done well throughout the day.  Speech has improved, and
   neurology
s consult is appreciated.  He has remained off of diltiazem
   infusion and off of noninvasive ventilation without respiratory
   difficulty.  Our team called and discussed the findings of metastatic
   cancer with both his PCP and his legal guardian; both indicated that,
   based on their knowledge of his wishes, he would not want treatment
   other than palliation for symptoms.
   He is ready for transfer to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2166-9-11**] 07:21 PM ------

2166-09-12 06:38:00 Physician Resident Progress Note
24 Hour Events:
   - Ortho signed off; chronic issue, wt bear as tolerated
   - Neuro- frontal release signs but no stroke.  No need for MRI at
   present.  Only suggested med management for a.fib with coumadin or
   antiplatelets
   - Dig and vanc level due tomorrow
   - Speech and swallow- ok to take meds po; crush and place in purees
   - Discussed pt with guardian
   - [**Name (NI) 5086**] spinal cord exam this am
   Allergies:
   Lithium
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-10**] 12:28 AM
   Azithromycin - [**2166-9-11**] 12:04 AM
   Vancomycin - [**2166-9-11**] 08:26 PM
   Piperacillin - [**2166-9-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-9-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-12**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 88 (72 - 101) bpm
   BP: 108/77(85) {97/60(67) - 118/88(95)} mmHg
   RR: 26 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,350 mL
                                                                    166 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,250 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    280 mL
   Urine:
                                                                  1,310 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                   -114 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Gen:  NAD
   HEENT:  Anicteric.  Dry oral mucosa.
   Resp:  Breathing comfortably on shovel mask.  Clear to auscultation
   anterior.  Decreased breath sounds at bases.
   CV:  JVP to angle of jaw.  Irregularly irregular.  S1, S2.  No M/G/R.
   Abd:  Bowel sounds present.  Soft.  Non-tender.
   Peripheral vascular:  Radial pulses 2+ bilaterally.  Extremities
   well-perfused.
   Neuro:  Oriented only to person.  Speech sparse.  Perseverates on short
   phrases.  Does not follow commands.  PERRL 3mm to 2mm bilaterally.
   EOMI except could not elicit upgaze.  Face symmetric.  Smiles.  Did not
   elevate palate or protrude tongue.  LUE pronated.  LLE externally
   rotated.  Moves all 4 extremities, but does not support them when
   passively lifted.  Brachioradialis and biceps reflexes 2+ on right.
   Right toes downgoing.  Left toes ambiguous.  Could not elicit reflexes
   in LUE or in lower extremities.  Could not adequately assess sensation
   or coordination due to patient
s mental status.
   Labs / Radiology
   290 K/uL
   12.0 g/dL
   120 mg/dL
   1.1 mg/dL
   27 mEq/L
   5.3 mEq/L
   32 mg/dL
   106 mEq/L
   139 mEq/L
   36.5 %
   9.7 K/uL
        [image002.jpg]
                             [**2166-9-9**]  12:30 PM
                             [**2166-9-9**]  01:50 PM
                             [**2166-9-9**]  02:41 PM
                             [**2166-9-9**]  09:07 PM
                             [**2166-9-10**]  03:16 AM
                             [**2166-9-11**]  05:07 AM
                             [**2166-9-12**]  03:20 AM
   WBC
   9.0
   7.6
   9.1
   9.7
   Hct
   37.6
   37.4
   39.5
   36.5
   Plt
   255
   220
   277
   290
   Cr
   0.7
   1.2
   1.1
   1.1
   1.1
   TropT
   0.02
   TCO2
   29
   Glucose
   70
   97
   200
   148
   120
   Other labs: PT / PTT / INR:14.6/25.5/1.3, CK / CKMB /
   Troponin-T:362/12/0.02, Differential-Neuts:89.4 %, Lymph:6.9 %,
   Mono:3.0 %, Eos:0.7 %, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   PSA 279.9
   Assessment and Plan
   Assessment and Plan
   84 yo M with COPD, Afib, prostate cancer, thoracic aneurysm, s/p hip
   partial replacement, presented on [**2166-9-9**] with altered mental status,
   tachycardia, hypoxemia, LLE edema, and left hip/knee pain.  Imaging
   studies revealed pneumonia, large thoracic aortic aneurysm, and
   multiple blastic bone lesions.  The patient initially required
   non-invasive respiratory support but his respiratory status has
   improved, and he has been off of respiratory support since the evening
   of [**2166-9-10**].
   Altered mental status
 Per nursing home, patient A&Ox3 without
   dementia at baseline.  Mental status has fluctuated from hour to hour
   and tends to be better in the afternoon.  For instance, yesterday
   afternoon, the patient was able to respond to simple commands and
   answer simple questions.  However, this morning, the patient
s mental
   status is less responsive, as he has been in the mornings during this
   hospitalization.  This is likely delirium in the setting of acute
   infection, although some features are strange such as patient
   apparent aphasia.  Neurology evaluated the patient yesterday and does
   not feel that he has aphasia or has had a CVA.
          Neuro checks Q4H.
   .          Avoid benzos and opioids.
   Atrial fibrillation with RVR:  Patient not on anticoagulation.
   Patient
s PCP, [**Last Name (NamePattern4) **]. [**First Name (STitle) 125**], [**Name (NI) 420**] and does not believe anticoagulation
   is a good idea given fall risk.  Rate initially controlled with
   diltiazem.  Switched to digoxin to improve BP, cardiac output, renal
   perfusion.  Rate control and BP good.
          Continue digoxin for rate control.
   .          Check digoxin level in a.m. [**2166-9-13**].
   .          Monitor ECG.
   Pneumonia
 Patient with healthcare-acquired (nursing home resident)
   pneumonia.  Breathing has improved.  Vancomycin dose decreased to 750
   mg Q12 hours at 8 p.m. and 8 a.m.
          Cover MRSA, GNR, typical CAP pathogens with vanco, zosyn,
   azithro.  Stop azithromycin after completion of 5-day course.  Last
   dose will be Saturday night/Sunday morning at midnight.  Stop vanco and
   Zosyn on [**9-17**] after completion of 8-day course.
          Follow blood cultures.  Blood cultures x 2 are pending.
   .          Check vancomycin level on Saturday morning.
   Congestive Heart Failure - EF unknown.  JVP persistently elevated.
          Continue digoxin to support pressure.
   COPD
 Moving well today.  No wheezes.
          Continue bronchodilators
 albuterol and ipratropium nebs.
          Change methylprednisolone 20 mg IV Q8H to prednisone 30 mg
   PO daily.
   .          Continue to taper steroids.
   Blastic bone lesions
 Likely metastasis given history of prostate
   cancer and PSA 279.9.  Will need to rule out spinal cord compression
   given lower extremity weakness.
   .          MRI spine to rule out cord compression.
   Externally rotated hip - LLE shortened and externally rotated.  No
   evidence of fracture of dislocation on CT.  External rotation can be a
   sign of flaccid paresis, although neuro felt lower extremity strength
   to be symmetric.  Will rule out spinal cord lesion with MRI as above.
   LLE edema
 No clot.  DDx includes venous insufficiency, CHF (although
   worse on left).
   Schizoaffective disorder - Speech and swallow evaluated yesterday.
   Felt patient could take crushed meds.  Restarted home psych meds
   yesterday.
   .           Changed Depakote to valproic acid given patient
s dietary
   restrictions to purees and crushed meds.
   .           olanzapine
   Back pain
 [**Month (only) 60**] be a result of known metastatic disease.  Would avoid
   opioids given patient
s delirium, although patient may need more than
   just Tylenol if he develops significant pain.
   .           Tylenol for pain management.
   Hypothyroidism - Levothyroxine
   ICU Care
   Nutrition:  Diet advanced to purees and nectar thick liquids, with
   crushed meds.
   Glycemic Control:  Changed ISS from QID to breakfast, lunch, dinner,
   bedtime now that patient is eating.
   Lines:  PIV x 2
   20 Gauge - [**2166-9-11**] 08:07 AM
   22 Gauge - [**2166-9-12**] 03:30 AM
   Prophylaxis:
   DVT: heparin 5000 unit SC TID
   Stress ulcer: Changed omeprazole to lansoprazole oral disintegrating
   tablets 30 mg PO daily given patient
s dietary restrictions to purees
   and crushed meds.
   Bowel:  Changed Colace to senna and lactulose.  Patient has not had a
   bowel movement since admission.
   VAP:
   Comments:
   Communication:  Comments: [**Doctor First Name 3001**] (guardian) [**Telephone/Fax (1) 5003**]; [**First Name8 (NamePattern2) 5004**]
   [**Last Name (NamePattern1) 5005**] [**Telephone/Fax (1) 5006**]; Dr. [**First Name (STitle) 125**] [**Telephone/Fax (1) 5097**]
   Code status: DNR / DNI
   Disposition:  Called out to medicine floor.

2166-09-12 11:35:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Seen by orthopedics, who signed off: no dislocation and no need for
   intervention.
   His speech improved throughout the day.
   Seen by neurology, who did not find significant aphasia.
   Seen by speech and swallow.
   Case discussed with his guardian.
   Allergies:
   Lithium
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-10**] 12:28 AM
   Azithromycin - [**2166-9-11**] 12:04 AM
   Vancomycin - [**2166-9-12**] 07:59 AM
   Piperacillin - [**2166-9-12**] 07:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-9-12**] 12:00 AM
   Other medications:
   SQH, SQI, methylpred 20 q 8, vanco, colace, PPI, Tylenol, digoxin 0.125
   mg a day, azithro, synthroid, zyprexa, depakote 750 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-12**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.3
C (95.6
   HR: 88 (72 - 101) bpm
   BP: 126/55(74) {97/55(71) - 126/88(95)} mmHg
   RR: 27 (21 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,350 mL
                                                                    852 mL
   PO:
                                                                    100 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,250 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    740 mL
   Urine:
                                                                  1,310 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: frail
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 2+, left leg remains externally rotated
   Skin:  Warm
   Neurologic: Earlier, speech output increased compared with yesterday.
   Today, back to minimal verbal response though he will track and follow
   well and seems alert.
   Labs / Radiology
   12.0 g/dL
   290 K/uL
   120 mg/dL
   1.1 mg/dL
   27 mEq/L
   5.3 mEq/L
   32 mg/dL
   106 mEq/L
   139 mEq/L
   36.5 %
   9.7 K/uL
        [image002.jpg]
                             [**2166-9-9**]  12:30 PM
                             [**2166-9-9**]  01:50 PM
                             [**2166-9-9**]  02:41 PM
                             [**2166-9-9**]  09:07 PM
                             [**2166-9-10**]  03:16 AM
                             [**2166-9-11**]  05:07 AM
                             [**2166-9-12**]  03:20 AM
   WBC
   9.0
   7.6
   9.1
   9.7
   Hct
   37.6
   37.4
   39.5
   36.5
   Plt
   255
   220
   277
   290
   Cr
   0.7
   1.2
   1.1
   1.1
   1.1
   TropT
   0.02
   TCO2
   29
   Glucose
   70
   97
   200
   148
   120
   Other labs: PT / PTT / INR:14.6/25.5/1.3, CK / CKMB /
   Troponin-T:362/12/0.02, Differential-Neuts:89.4 %, Lymph:6.9 %,
   Mono:3.0 %, Eos:0.7 %, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: PSA 279.9
   Imaging: CXR: left base opacity and abnormal aortic contour persist
   Microbiology: No new (+) micro
   Assessment and Plan
   84 y/o man with multiple chronic medical problems now with
          Respiratory Distress
   o         Markedly improved.  Appears to have been secondary to
   pneumonia and possibly COPD.
   o         [**Name (NI) 4986**] (pt resides in nursing home)
   o         Covering MRSA, GNR, typical CAP pathogens with vanco, zosyn,
   azithro.  Finish azithro on [**2166-9-14**] (5 days)and vanco/zosyn on [**2166-9-17**]
   (8 days)
   o         Follow cx
          Altered mental status
   o         He has waxed and waned over the past days, particularly
   regarding his level of speech output.
   o         Although CVA could cause some of these symptoms, the overall
   presentation is much more consistent with delirium. Infection can
   certainly contribute and may be the main cause.
   o         Appreciate neurology
s help.
          Atrial fibrillation
   o         Doing better on digoxin than he did on diltiazem infusion
   o         Will need digoxin level, EKGs, and careful followup
          COPD
   o         Improving
 convert steroids to oral and continue to wean
   o         Bronchodilators.
          Schizoaffective disorder
   o         Resume as many home meds as possible when feasible
          Metastatic prostate cancer
   o         Discussed with PCP and legal guardian.  They say that he
   would seek treatment only for fracture or other symptoms.
   o         We are not able to easily examine his lower extremities for
   strength.  Given the risk of cord compression, and possible decrement
   in movement, we will pursue MRI today.
          DNR/DNI
          Externally rotated left hip
   o         Evaluated by CT and ortho
 felt to be benign
   ICU Care
   Nutrition: advance diet as per speech/swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2166-9-11**] 08:07 AM
   22 Gauge - [**2166-9-12**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor